US05344828
Ethyl 4-(11H-Dibenz[b,e]azepin-6-yl)-1-piperazineacetate
A mixture of 2.77 g of 6-(1-piperazinyl)-11H-dibenz[b,e]azepine, 2.00 g of ethyl bromoacetate and 1.38 g of potassium carbonate in 14 ml of N,N-dimethylformamide was stirred at 70° C. for 3 hrs. After cooling, water was added to the reaction mixture and extracted with ether. The etheral layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (2:1 and 1:1) as eluents to give 2.91 g of colorless crystals, which were recrystallized from isopropyl ether to give colorless prisms, mp 107°-108° C.

reactant | 6-(1-piperazinyl)-11H-dibenz[b,e]azepine | 2.77 g | N1(CCNCC1)C=1C2=C(CC3=C(N1)C=CC=C3)C=CC=C2 | C18H19N3
reactant | ethyl bromoacetate | 2.00 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(11H-Dibenz[b,e]azepin-6-yl)-1-piperazineacetate | 2.91 g | C1=CC=CC=2N=C(C3=C(CC21)C=CC=C3)N3CCN(CC3)CC(=O)OCC | C22H25N3O2
